US07342115B2
Ethyl chloroformate (7.74 g, 71.3 mmol) is added dropwise to a mixture of (S)-1,2,3,4-tetrahydro-naphthalen-1-ylamine (10.0 g, 67.9 mmol) and K2CO3 (18.8 g, 136 mmol) in CH3CN (100 mL). The resulting mixture is stirred at room temperature overnight. Water (100 mL) is added and the mixture is extracted with ether (2×100 mL). The combined extract is washed with 1 N HCl (2×10 mL), water, dried (Na2SO4), and concentrated in vacuo to give (S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid ethyl ester as a solid.

reactant | Ethyl chloroformate | 71.3 mmol, 7.74 g | ClC(=O)OCC | C3H5ClO2
reactant | (S)-1,2,3,4-tetrahydro-naphthalen-1-ylamine | 67.9 mmol, 10.0 g | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | K2CO3 | 136 mmol, 18.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | (S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid ethyl ester | C(C)OC(N[C@H]1CCCC2=CC=CC=C12)=O | C13H17NO2
